US07179839B2
251 mg (1.8 mmol) 4-fluorobenzene boronic acid, 500 mg (1.5 mmol) of a mixture of N-(4-bromo-indan-2-yl)-4-fluoro-benzamide (relative amount 20%) and N-(5-bromo-indan-2-YL)-4-fluoro-benzamide (relative amount 80%), 708 mg (2.24 mmol) barium hydroxide octahydrate and 50 mg tetrakis(triphenylphosphine)-palladium were suspended in 10 ml of water and 10 ml of dimethoxyethane, under an argon atmosphere, and stirred over 2 h at 80° C. The mixture was poured onto ice water, the formed precipitate was filtered off and crystallized from ethyl acetate/hexane. 170 mg (27%) 4-fluoro-N-[5-(4-fluorophenyl)-indan-2-yl]-benzamide, mp.: 193° C., were obtained.

reactant | 4-fluorobenzene boronic acid | 1.8 mmol, 251 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | N-(4-bromo-indan-2-yl)-4-fluoro-benzamide | BrC1=C2CC(CC2=CC=C1)NC(C1=CC=C(C=C1)F)=O | C16H13BrFNO
reactant | N-(5-bromo-indan-2-YL)-4-fluoro-benzamide | BrC=1C=C2CC(CC2=CC1)NC(C1=CC=C(C=C1)F)=O | C16H13BrFNO
reactant | barium hydroxide octahydrate | 2.24 mmol, 708 mg | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
solvent | water | 10 ml | O | H2O
solvent | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine)-palladium | 50 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-fluoro-N-[5-(4-fluorophenyl)-indan-2-yl]-benzamide | 170 mg, 27% | FC1=CC=C(C(=O)NC2CC3=CC=C(C=C3C2)C2=CC=C(C=C2)F)C=C1 | C22H17F2NO
